US05096890
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(3,4-methylenedioxyphenyl)ethyl]pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.3 g--see Preparation 8), 3,4-methylenedioxyphenethyl bromide (0.247 g--see Preparation 16), anhydrous potassium carbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 3 hours. The mixture was allowed to cool to room temperature, water (6 ml) was added and the mixture was extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a colourless foam which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield 0.27 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.3 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 3,4-methylenedioxyphenethyl bromide | 0.247 g | C1OC=2C=C(CCBr)C=CC2O1 | C9H9BrO2
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 6 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(3,4-methylenedioxyphenyl)ethyl]pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC2=C(C=C1)OCO2 | C27H28N2O3
